* NGSPICE file created from integrator.ext - technology: gf180mcuD

.subckt xm3 a_n50_n389# a_n388_n554# a_28_n181# a_n178_n181#
X0 a_28_n181# a_n50_n389# a_n178_n181# a_n388_n554# nfet_03v3 ad=0.75p pd=3.5u as=0.75p ps=3.5u w=1u l=0.28u
C0 a_n178_n181# a_28_n181# 0.40419f
C1 a_n178_n181# a_n50_n389# 0.02978f
C2 a_n50_n389# a_28_n181# 0.01582f
C3 a_28_n181# a_n388_n554# 0.58399f
C4 a_n178_n181# a_n388_n554# 0.32687f
C5 a_n50_n389# a_n388_n554# 0.43951f
.ends

.subckt xm1 a_n50_n389# w_n444_n610# a_28_n181# a_n178_n181# VSUBS
X0 a_28_n181# a_n50_n389# a_n178_n181# w_n444_n610# pfet_03v3 ad=0.75p pd=3.5u as=0.75p ps=3.5u w=1u l=0.28u
C0 a_n50_n389# a_n178_n181# 0.02978f
C1 a_n50_n389# w_n444_n610# 0.39101f
C2 a_28_n181# a_n178_n181# 0.40419f
C3 a_28_n181# w_n444_n610# 0.5272f
C4 w_n444_n610# a_n178_n181# 0.27119f
C5 a_n50_n389# a_28_n181# 0.01582f
C6 a_28_n181# VSUBS 0.05681f
C7 a_n178_n181# VSUBS 0.05568f
C8 a_n50_n389# VSUBS 0.0485f
C9 w_n444_n610# VSUBS 4.03502f
.ends

.subckt xm6 a_n50_n389# a_n388_n554# a_28_n181# a_n178_n181#
X0 a_28_n181# a_n50_n389# a_n178_n181# a_n388_n554# nfet_03v3 ad=0.75p pd=3.5u as=0.75p ps=3.5u w=1u l=0.28u
C0 a_n178_n181# a_28_n181# 0.40419f
C1 a_n178_n181# a_n50_n389# 0.02978f
C2 a_n50_n389# a_28_n181# 0.01582f
C3 a_28_n181# a_n388_n554# 0.58399f
C4 a_n178_n181# a_n388_n554# 0.32687f
C5 a_n50_n389# a_n388_n554# 0.43951f
.ends

.subckt xm2 a_n50_n389# a_n388_n554# a_28_n181# a_n178_n181#
X0 a_28_n181# a_n50_n389# a_n178_n181# a_n388_n554# nfet_03v3 ad=0.75p pd=3.5u as=0.75p ps=3.5u w=1u l=0.28u
C0 a_n178_n181# a_28_n181# 0.40419f
C1 a_n178_n181# a_n50_n389# 0.02978f
C2 a_n50_n389# a_28_n181# 0.01582f
C3 a_28_n181# a_n388_n554# 0.58399f
C4 a_n178_n181# a_n388_n554# 0.32687f
C5 a_n50_n389# a_n388_n554# 0.43951f
.ends

.subckt xc3 m4_n1968_n1968# m4_n1768_n1768# VSUBS
X0 m4_n1768_n1768# m4_n1968_n1968# cap_mim_2f0_m4m5_noshield c_width=17.68u c_length=17.68u
X1 m4_n1768_n1768# m4_n1968_n1968# cap_mim_2f0_m4m5_noshield c_width=17.68u c_length=17.68u
X2 m4_n1768_n1768# m4_n1968_n1968# cap_mim_2f0_m4m5_noshield c_width=17.68u c_length=17.68u
X3 m4_n1768_n1768# m4_n1968_n1968# cap_mim_2f0_m4m5_noshield c_width=17.68u c_length=17.68u
X4 m4_n1768_n1768# m4_n1968_n1968# cap_mim_2f0_m4m5_noshield c_width=17.68u c_length=17.68u
X5 m4_n1768_n1768# m4_n1968_n1968# cap_mim_2f0_m4m5_noshield c_width=17.68u c_length=17.68u
X6 m4_n1768_n1768# m4_n1968_n1968# cap_mim_2f0_m4m5_noshield c_width=17.68u c_length=17.68u
X7 m4_n1768_n1768# m4_n1968_n1968# cap_mim_2f0_m4m5_noshield c_width=17.68u c_length=17.68u
C0 m4_n1768_n1768# m4_n1968_n1968# 26.6391f
C1 m4_n1768_n1768# VSUBS 26.2832f
C2 m4_n1968_n1968# VSUBS 11.885f
.ends

.subckt integrator avdd avss Vext_pin i_50
Xxm3_0 i_50 avss i_50 avss xm3
Xxm1_0 xm2_0/a_28_n181# avdd xm2_0/a_28_n181# xm6_0/a_n178_n181# avss xm1
Xxm6_0 Vext_pin avss avdd xm6_0/a_n178_n181# xm6
Xxm2_0 i_50 avss xm2_0/a_28_n181# avss xm2
Xxc3_0 avss xm6_0/a_n178_n181# avss xc3
R0 i_50.n2 i_50.n0 44.613
R1 i_50.n2 i_50.n1 43.6698
R2 i_50.n4 i_50.n3 13.9125
R3 i_50.n4 i_50.n2 9.9131
R4 i_50 i_50.n4 4.5005
R5 Vext_pin Vext_pin.n0 47.7648
R6 avss.n48 avss.n47 4778.41
R7 avss.n46 avss.n5 898.506
R8 avss.n45 avss.n10 496.315
R9 avss.n47 avss.n46 492.483
R10 avss.n59 avss.n58 93.9922
R11 avss.n48 avss.n5 92.2322
R12 avss.n31 avss.n8 73.3061
R13 avss.n44 avss.n28 73.3061
R14 avss.n44 avss.n29 73.3061
R15 avss.n39 avss.n8 73.3061
R16 avss.n27 avss.n11 73.3061
R17 avss.n27 avss.n12 73.3061
R18 avss.n21 avss.n9 73.3061
R19 avss.n15 avss.n9 73.3061
R20 avss.n57 avss.n56 73.3061
R21 avss.n57 avss.n3 73.3061
R22 avss.n50 avss.n4 73.3061
R23 avss.n60 avss.n4 73.3061
R24 avss avss.n65 7.2455
R25 avss.n36 avss.n0 6.01508
R26 avss.n25 avss.n0 5.45528
R27 avss.n65 avss.n64 5.45528
R28 avss.n35 avss.n34 5.24453
R29 avss.n43 avss.n30 5.24453
R30 avss.n43 avss.n42 5.24453
R31 avss.n26 avss.n13 5.24453
R32 avss.n19 avss.n18 5.24453
R33 avss.n52 avss.n2 5.24453
R34 avss.n53 avss.n52 5.24453
R35 avss.n18 avss.n17 5.2367
R36 avss.n54 avss.n1 5.2367
R37 avss.n14 avss.n11 5.2005
R38 avss.n16 avss.n15 5.2005
R39 avss.n23 avss.n12 5.2005
R40 avss.n22 avss.n21 5.2005
R41 avss.n41 avss.n29 5.2005
R42 avss.n40 avss.n39 5.2005
R43 avss.n33 avss.n31 5.2005
R44 avss.n32 avss.n28 5.2005
R45 avss.n51 avss.n50 5.2005
R46 avss.n56 avss.n55 5.2005
R47 avss.n61 avss.n60 5.2005
R48 avss.n62 avss.n3 5.2005
R49 avss.n37 avss.n36 4.7417
R50 avss.n25 avss.n24 4.7417
R51 avss.n64 avss.n63 4.7417
R52 avss.n34 avss.n33 4.5005
R53 avss.n32 avss.n30 4.5005
R54 avss.n42 avss.n41 4.5005
R55 avss.n40 avss.n37 4.5005
R56 avss.n24 avss.n23 4.5005
R57 avss.n22 avss.n19 4.5005
R58 avss.n14 avss.n13 4.5005
R59 avss.n17 avss.n16 4.5005
R60 avss.n61 avss.n2 4.5005
R61 avss.n63 avss.n62 4.5005
R62 avss.n53 avss.n51 4.5005
R63 avss.n55 avss.n54 4.5005
R64 avss.n46 avss.n45 3.83305
R65 avss.n31 avss.n6 3.11744
R66 avss.n38 avss.n29 3.11744
R67 avss.n20 avss.n12 3.11744
R68 avss.n11 avss.n7 3.11744
R69 avss.n15 avss.n7 3.11744
R70 avss.n21 avss.n20 3.11744
R71 avss.n39 avss.n38 3.11744
R72 avss.n28 avss.n6 3.11744
R73 avss.n56 avss.n49 3.11744
R74 avss.n50 avss.n49 3.11744
R75 avss.n59 avss.n3 3.11744
R76 avss.n60 avss.n59 3.11744
R77 avss.n65 avss.n0 1.1939
R78 avss.n47 avss.n7 1.04278
R79 avss.n20 avss.n10 1.04278
R80 avss.n38 avss.n10 1.04278
R81 avss.n47 avss.n6 1.04278
R82 avss.n49 avss.n48 1.04278
R83 avss.n58 avss.n5 0.718256
R84 avss.n18 avss.n9 0.6505
R85 avss.n45 avss.n9 0.6505
R86 avss.n27 avss.n26 0.6505
R87 avss.n45 avss.n27 0.6505
R88 avss.n35 avss.n8 0.6505
R89 avss.n45 avss.n8 0.6505
R90 avss.n44 avss.n43 0.6505
R91 avss.n45 avss.n44 0.6505
R92 avss.n52 avss.n4 0.6505
R93 avss.n58 avss.n4 0.6505
R94 avss.n57 avss.n1 0.6505
R95 avss.n58 avss.n57 0.6505
R96 avss.n36 avss.n35 0.503326
R97 avss.n26 avss.n25 0.503326
R98 avss.n64 avss.n1 0.503326
R99 avss.n41 avss.n40 0.1445
R100 avss.n33 avss.n32 0.1445
R101 avss.n34 avss.n30 0.1445
R102 avss.n42 avss.n37 0.1445
R103 avss.n23 avss.n22 0.1445
R104 avss.n24 avss.n19 0.1445
R105 avss.n17 avss.n13 0.1445
R106 avss.n16 avss.n14 0.1445
R107 avss.n55 avss.n51 0.1445
R108 avss.n62 avss.n61 0.1445
R109 avss.n63 avss.n2 0.1445
R110 avss.n54 avss.n53 0.1445
R111 avdd.n13 avdd.n3 584.827
R112 avdd.n13 avdd.n6 584.827
R113 avdd.n15 avdd.n14 65.9755
R114 avdd.n14 avdd.n4 65.9755
R115 avdd.n12 avdd.n11 65.9755
R116 avdd.n12 avdd.n2 65.9755
R117 avdd avdd.n19 16.9497
R118 avdd.n7 avdd.n4 6.3005
R119 avdd.n11 avdd.n10 6.3005
R120 avdd.n17 avdd.n2 6.3005
R121 avdd.n16 avdd.n15 6.3005
R122 avdd.n5 avdd.n1 5.24453
R123 avdd.n8 avdd.n5 5.24453
R124 avdd.n9 avdd.n0 5.24453
R125 avdd.n19 avdd.n18 4.7417
R126 avdd.n18 avdd.n17 4.5005
R127 avdd.n16 avdd.n1 4.5005
R128 avdd.n8 avdd.n7 4.5005
R129 avdd.n10 avdd.n9 4.5005
R130 avdd.n11 avdd.n6 3.31679
R131 avdd.n6 avdd.n4 3.31679
R132 avdd.n15 avdd.n3 3.31679
R133 avdd.n3 avdd.n2 3.31679
R134 avdd.n14 avdd.n5 0.788
R135 avdd.n14 avdd.n13 0.788
R136 avdd.n12 avdd.n0 0.788
R137 avdd.n13 avdd.n12 0.788
R138 avdd.n19 avdd.n0 0.503326
R139 avdd.n10 avdd.n7 0.1445
R140 avdd.n17 avdd.n16 0.1445
R141 avdd.n18 avdd.n1 0.1445
R142 avdd.n9 avdd.n8 0.1445
C0 xm6_0/a_n178_n181# avdd 1.4067f
C1 i_50 xm2_0/a_28_n181# 0.08062f
C2 Vext_pin xm6_0/a_n178_n181# 0.00154f
C3 xm6_0/a_n178_n181# xm2_0/a_28_n181# 0.26293f
C4 Vext_pin avdd 0.00109f
C5 xm2_0/a_28_n181# avdd 0.50163f
C6 i_50 xm6_0/a_n178_n181# 0.02345f
C7 avdd.n0 avss 0.00335f
C8 avdd.n1 avss 0.00187f
C9 avdd.n2 avss 0.00155f
C10 avdd.n3 avss 0.01395f
C11 avdd.n4 avss 0.00155f
C12 avdd.n5 avss 0.00458f
C13 avdd.n6 avss 0.01395f
C14 avdd.n7 avss 0
C15 avdd.n8 avss 0.00187f
C16 avdd.n9 avss 0.00187f
C17 avdd.n10 avss 0
C18 avdd.n11 avss 0.00155f
C19 avdd.n12 avss 0.00252f
C20 avdd.n13 avss 0.02071f
C21 avdd.n14 avss 0.00252f
C22 avdd.n15 avss 0.00155f
C23 avdd.n16 avss 0
C24 avdd.n17 avss 0
C25 avdd.n18 avss 0.00174f
C26 avdd.n19 avss 0.10091f
C27 avss.n0 avss 0.00146f
C28 avss.n1 avss 0
C29 avss.n2 avss 0
C30 avss.n3 avss 0
C31 avss.n4 avss 0
C32 avss.n5 avss 0.01214f
C33 avss.n8 avss 0
C34 avss.n9 avss 0
C35 avss.n10 avss 0.00904f
C36 avss.n11 avss 0
C37 avss.n12 avss 0
C38 avss.n13 avss 0
C39 avss.n14 avss 0
C40 avss.n15 avss 0
C41 avss.n16 avss 0
C42 avss.n17 avss 0
C43 avss.n18 avss 0
C44 avss.n19 avss 0
C45 avss.n21 avss 0
C46 avss.n22 avss 0
C47 avss.n23 avss 0
C48 avss.n24 avss 0
C49 avss.n25 avss 0
C50 avss.n26 avss 0
C51 avss.n27 avss 0
C52 avss.n28 avss 0
C53 avss.n29 avss 0
C54 avss.n30 avss 0
C55 avss.n31 avss 0
C56 avss.n32 avss 0
C57 avss.n33 avss 0
C58 avss.n34 avss 0
C59 avss.n35 avss 0
C60 avss.n36 avss 0
C61 avss.n37 avss 0
C62 avss.n39 avss 0
C63 avss.n40 avss 0
C64 avss.n41 avss 0
C65 avss.n42 avss 0
C66 avss.n43 avss 0
C67 avss.n44 avss 0
C68 avss.n45 avss 0.00176f
C69 avss.n46 avss 0.00457f
C70 avss.n47 avss 0.06282f
C71 avss.n48 avss 0.2655f
C72 avss.n50 avss 0
C73 avss.n51 avss 0
C74 avss.n52 avss 0
C75 avss.n53 avss 0
C76 avss.n54 avss 0
C77 avss.n55 avss 0
C78 avss.n56 avss 0
C79 avss.n57 avss 0
C80 avss.n58 avss 0.00992f
C81 avss.n59 avss 0.04775f
C82 avss.n60 avss 0
C83 avss.n61 avss 0
C84 avss.n62 avss 0
C85 avss.n63 avss 0
C86 avss.n64 avss 0
C87 avss.n65 avss 0.05484f
C88 Vext_pin.n0 avss 0.00427f
C89 i_50.n0 avss 0.0328f
C90 i_50.n1 avss 0.02814f
C91 i_50.n2 avss 0.51081f
C92 i_50.n3 avss 0.06154f
C93 i_50.n4 avss 0.22606f
C94 xm6_0/a_n178_n181# avss -0.79166f
C95 Vext_pin avss -0.05975f
C96 xm2_0/a_28_n181# avss -0.66968f
C97 i_50 avss -0.21235f
C98 avdd avss -5.20771f
.ends

